US07514419B2
To a stirring solution of (4-bromo-2,6-dimethylphenoxy)-triisopropylsilane (0.5 g, 1.4 mmol) in THF (15 mL) at −78° C. was added n-BuLi (2.5 M in hexanes, 0.56 mL), the reaction mixture was stirred at −78° C. for 1 hr, then dimethyldisulfide (0.16 mL, 1.82 mmol) was added at −78° C. The reaction mixture was stirred at room temperature for 1 h and quenched with saturated NH4Cl and diluted with diethyl ether. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude (2,6-dimethyl-4-methylsulfanylphenoxy)triisopropyl-silane as an oil (0.46 g, 100%): 1H NMR (300 MHz, DMSO-d6): δ 6.92 (s, 2 H), 2.41 (s, 3 H), 2.20 (s, 6 H), 1.29 (m, 3 H), 1.10 (d, J=7.2 Hz, 18 H). TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (2:98); Rf=0.57.

reactant | (4-bromo-2,6-dimethylphenoxy)-triisopropylsilane | 1.4 mmol, 0.5 g | BrC1=CC(=C(O[Si](C(C)C)(C(C)C)C(C)C)C(=C1)C)C | C17H29BrOSi
reactant | n-BuLi | 2.5 M, 0.56 mL | [Li]CCCC
reactant | dimethyldisulfide | 1.82 mmol, 0.16 mL | CSSC | C2H6S2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2,6-dimethyl-4-methylsulfanylphenoxy)triisopropyl-silane | 0.46 g, 100% | CC1=C(O[Si](C(C)C)(C(C)C)C(C)C)C(=CC(=C1)SC)C | C18H32OSSi
